US04085272
Preparation of n-butyl cyclopropyl ketone
To a vigorously-stirred solution of 31.0 g of cyclopropanecarboxylic acid in 330 ml of ether is added a solution of n-butyllithium (748 mmoles) in about 750 ml of 2:1 ether-hexane during one hour at 5°-10° C. The resulting suspension is diluted with 300 ml of ether and stirred at room temperature for 2 hours and at reflux for 2 hours. The mixture is cooled and poured into several portions of 1:1 ice:4N hydrochloric acid. The ethereal phases are combined and washed with brine, sodium carbonate solution, and brine. The extract is dried over magnesium sulfate and concentrated. The residue is distilled to provide a liquid, bp-102°-104° C (80 mm), pmr spectrum (CDCl3): β 2.55 (triplet, --CH2CO--).

reactant | cyclopropanecarboxylic acid | 31.0 g | C1(CC1)C(=O)O | C4H6O2
reactant | n-butyllithium | 748 mmoles | C(CCC)[Li]
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ether | 330 ml | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
product | n-butyl cyclopropyl ketone | C1(CC1)C(=O)CCCC | C8H14O
